US07253198B2
A suspension of 5-nitro-isophthalic acid monomethyl ester (D77) (1.0 g, 4.44 mmol, 1 equiv) in CH2Cl2 (40 ml) was treated with (COCl)2 (655 mg, 5.2 mmol, 1.2 equiv) followed by a few drops of DMF. The resulting mixture was stirred for 1 h at room temperature and then dipropylamine (1.65 g, 15 mmol, 3.4 equiv) was added and the resulting solution stirred for a further 30 min. The solution was then washed with 2N aqueous HCl solution (50 ml), saturated aqueous NaHCO3 solution (50 ml), dried over MgSO4 and concentrated in vacuo to give 5-nitro-N,N-dipropyl-isophthalamic acid methyl ester (D87) (1.5 g, 110%) as a pale yellow oil.

reactant | 5-nitro-isophthalic acid monomethyl ester | 4.44 mmol, 1.0 g, 1 equiv | COC(C1=CC(C(=O)O)=CC(=C1)[N+](=O)[O-])=O | C9H7NO6
reactant | (COCl)2 | 5.2 mmol, 655 mg, 1.2 equiv | C(=O)(C(=O)Cl)Cl | C2Cl2O2
reactant | dipropylamine | 15 mmol, 1.65 g, 3.4 equiv | C(CC)NCCC | C6H15N
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | a few drops | CN(C)C=O | C3H7NO
product | 5-nitro-N,N-dipropyl-isophthalamic acid methyl ester | 1.5 g, 110% | COC(C1=CC(C(=O)N(CCC)CCC)=CC(=C1)[N+](=O)[O-])=O | C15H20N2O5
